US09085555B2
B. (2S,4R)-2-(3-Bromo-4-carboxy-phenylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4R)-2-(3-bromo-4-methoxycarbonyl-phenylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester (400 mg, 0.898 mmol) in MeOH (9 mL) was added a 2N aqueous NaOH solution (1.78 mL, 3.59 mmol). The reaction mixture was stirred at RT for 20 h and then evaporated under reduced pressure. The residue was taken up in water and the aqueous phase was acidified (pH 2 to 3) by adding 0.1N aqueous HCl. The resulting suspension was extracted with EtOAc (4×) and the combined organics were concentrated under reduced pressure to afford the crude title compound as a pale yellow solid. This product was used in the next reaction step without further purification. MS (LC/MS): 454 [M+Na]+, 374 [MH−tBu]+, 330 [MH−Boc]+; tR (HPLC conditions b): 3.41 min.

reactant | (2S,4R)-2-(3-bromo-4-methoxycarbonyl-phenylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.898 mmol, 400 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)C(NC1=CC(=C(C=C1)C(=O)OC)Br)=O | C18H22BrFN2O5
reactant | NaOH | 3.59 mmol, 2N, 1.78 mL | [OH-].[Na+]
solvent | MeOH | 9 mL | CO | CH4O
product | (2S,4R)-2-(3-Bromo-4-carboxy-phenylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)C(NC1=CC(=C(C=C1)C(=O)O)Br)=O | C17H20BrFN2O5
